US05489593
2-Chloro-3-(1-methylethylamino)pyrazine
A solution of 2,3-dichloropyrazine (2.0 g) and isopropylamine (2.3 g) in toluene (8 ml) is refluxed for 40 hr. The mixture is cooled and filtered to remove isopropylamine hydrochloride. The filtrate is concentrated in vacuo to a residue which is diluted with an aqueous sodium hydroxide solution (10%) and dichloromethane. The phases are separated. The dichloromethane phase is washed with saline, dried over sodium sulfate, and concentrated to give the title compound, NMR (CDCl3) 1.28, 4.21, 5.02, 7.54 and 7.94 δ.

reactant | 2,3-dichloropyrazine | 2.0 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | isopropylamine | 2.3 g | C(C)(C)N | C3H9N
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-3-(1-methylethylamino)pyrazine | ClC1=NC=CN=C1NC(C)C | C7H10ClN3
